Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Zocor
 
Attending: ___.
 
Chief Complaint:
On ___ presented to ___ for 1 week history of 
generalized weakness
 
Major Surgical or Invasive Procedure:
___: Right frontal craniotomy and resection

 
History of Present Illness:
Mr ___ is a ___ y/o M with metastatic melanoma s/p resection 
of abdominal mass and axillary LN dissection who is currently on 
immunotherapy - nivolumab), known Afib not on AC, Peptic ulcers 
with prior GI bleed x2 (___), prior PE s/p IVC filter ___, 
EtOH use, gastric bypass ___, hypothyroidism, who presented to 
___ for 1 week of generalized weakness, found to be 
hypotensive not responsive to 2L IVF, started on levophed and 
transferred to ___.

He was found to have have a sellar and right frontal metastatic 
lesion. He was taken to the OR for right frontal craniotomy and 
resection of the metastatic lesion. 

 
Past Medical History:
Gastric bypass
Shoulder arthritis, rotator cuff injury awaiting surgery
atrial fibrillation
diabetes
alcohol abuse
fatty liver
hypertension
osteoarthritis of the knee
radial nerve palsy
sleep apnea
GI bleed from PUD while on anticoagulation for afib
 
Social History:
___
Family History:
His brother had skin cancer though he does not think it was 
melanoma.
 
Physical Exam:
AT DISCHARGE: 
=============
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time 
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 3-2mm bilaterally 
Wearing glasses 
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x] No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
Deltoid BicepTricepGrip
Right4 44-      5
Left5 55       5

IPHamATEHLGast
___
Left5       5       555
*Baseline RUE weakness from shoulder injury sustained at work 

Sensation grossly intact to light touch bilaterally

Wound: 
[x]Clean, dry, intact 
[x]Staples 
 
Pertinent Results:
Please refer to ___ for relevant imaging and lab results. 
 
Brief Hospital Course:
___ yo male with metastatic melanoma now found to have two 
metastases, one to the sella and a second in the superficial 
right frontal lobe at the coronal suture.
The patient is now s/p right frontal craniotomy for resection of 
the right frontal lesion. 

#Right frontal lesion
The patient underwent a right frontal craniotomy and resection 
___ ___. For further details please refer 
to OMR for brief op note and operative report. Following the 
procedure the patient was transferred to the PACU for post 
anesthesia care and monitoring. He was then transferred to the 
Neuroscience Intermediate Care Unit for overnight surveillance 
and management. He remained neurologically intact and returned 
to his baseline. He was assessed by physical therapy and 
occupational therapy who both recommended discharge to home with 
home services. Case Management set up ___ services to assess 
patient at home on ___. 
The hematology/oncology team was following and agreed that 
patient had no acute oncological inpatient needs and could be 
discharged home with outpatient follow up. Appropriate 
appointments were set up for him and provided in discharge 
paperwork. 
On POD ___, he was felt to be neurologically stable and 
discharged home with outpatient follow up.  

#Adrenal insufficiency
During the ___ prior admission, Endocrinology started him 
on hydrocortisone bid. He was subsequently discharged home on 
Hydrocort BID. He was started on Dexamethasone post operatively, 
in which he will have a taper dose upon discharge. He will 
maintain a Dexamethasone 2mg BID dosing until follow up with 
BTC. Endocrine was made aware/consulted on ___ and confirmed 
that this was appropriate dosing and not to restart the 
hydrocort until the dexamethasone was discontinued. The on call 
fellow was to reach out to ___ primary ___ MD and 
alert them of changes and for follow up care. 
He was also hyperglycemic due to steroid usage - requiring 
intermittent low dose insulin regimen. It was confirmed with 
Endocrine to not discharge with home insulin regiment, as this 
is expected to autoregulate with the tapering of the steroid. 

#Liver disease/ETOH use
Pt had no signs or symptoms of alcohol withdrawal while 
inpatient. 

#Hypothyroidism
He was maintained on his home dose of Levothyroxine. 

#Hypogonadism
#Hypotension 
Upon assessment of previous discharge medications, it was 
determined that his home dose of Metoprolol BID was held and he 
was to follow up with his PCP. He remained intermittently 
hypotensive while hospitalized, with his Metoprolol being 
intermittently held. It was discontinued upon discharge and he 
is to follow up with his PCP on when to restart this medication. 

 
Medications on Admission:
Preadmission medication list: 
colchicine 0.6 mg capsule. capsule(s) by mouth  
digoxin 125 mcg tablet. tablet(s) by mouth  
levothyroxine 75 mcg daily 30 minutes before food
metoprolol tartrate 50 mg BID 
omeprazole 20 mg daily 
torsemide 10 mg every other day 
cyanocobalamin- Dosage uncertain 
iron 18 mg once a day 

Unclear if accurate dosing, patient unable to recall medication 
regimen. Will need to be corroborated by outpatient PCP or 
pharmacy.
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Codeine Sulfate 15 mg PO Q4H:PRN Severe pain 
RX *codeine sulfate 15 mg 1 tablet(s) by mouth every four hours 
as needed Disp #*30 Tablet Refills:*0 
3.  Dexamethasone 3 mg PO Q6H Duration: 4 Doses 
This is dose # 2 of 4 tapered doses
RX *dexamethasone 2 mg 1.5 tablet(s) by mouth every six hours 
Disp #*3 Tablet Refills:*0 
4.  Dexamethasone 2 mg PO Q6H Duration: 4 Doses 
This is dose # 3 of 4 tapered doses
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth every six hours Disp 
#*4 Tablet Refills:*0 
5.  Dexamethasone 2 mg PO Q8H Duration: 3 Doses 
This is dose # 4 of 4 tapered doses
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth every eight hours 
Disp #*3 Tablet Refills:*0 
6.  Dexamethasone 2 mg PO Q12H 
This is the maintenance dose to follow the last tapered dose
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
7.  Digoxin 0.125 mg PO QAM  
8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Torsemide 10 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right frontal metastatic lesion 
Atrial fibrillation 
Metastatic melanoma  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Brain Tumor

Surgery

* You underwent surgery to remove a brain lesion from your 
brain. 
* Please keep your incision dry until your staples are removed. 
* You may shower at this time but keep your incision dry.
* It is best to keep your incision open to air but it is ok to 
cover it when outside. 
* Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

* We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
* You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
* No driving while taking any narcotic or sedating medication. 
* If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
* No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
* You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

* You may experience headaches and incisional pain. 
* You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
* You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
* Feeling more tired or restlessness is also common.
* Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:

* Severe pain, swelling, redness or drainage from the incision 
site. 
* Fever greater than 101.5 degrees Fahrenheit
* Nausea and/or vomiting
* Extreme sleepiness and not being able to stay awake
* Severe headaches not relieved by pain relievers
* Seizures
* Any new problems with your vision or ability to speak
* Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

* Sudden numbness or weakness in the face, arm, or leg
* Sudden confusion or trouble speaking or understanding
* Sudden trouble walking, dizziness, or loss of balance or 
coordination
* Sudden severe headaches with no known reason

***Medications***
*You will be on a dexamethasone taper. Please take as 
prescribed. Once the tapered doses are completed, please 
maintain:
         Dexamethasone 2mg two times a day
Until follow up with Brain Tumor Conference team on ___. 
   If Dexamethasone is to be discontinued at that time, it is 
recommended to start taking your home dose hydrocort. 

*Your home dose Metoprolol was held on discharge ___ - this 
will continue to be held for hypotension. 
Please follow up with your primary care doctor on when to 
restart this mediation. 
 
Followup Instructions:
___